US03985887
A solution of 4.7 g (32.8 mmol) of dimethylsulfamyl chloride in 5 ml of dry pyridine is added to 5.0 g (16.4 mmol) of 3-amino-4-benzyloxyphenyl 2-pyridyl ketone in 100 ml of dry pyridine at 0°-10° C. The reaction mixture is stirred in the cold overnight and then poured in water and extracted with ether. The ether extract is washed with water and extracted with dilute aqueous KOH. This basic extract is washed with ether, acidified with hydrochloric acid and extracted with methylene chloride. The dried organic extract is evaporated in vacuo to give 4-benzyloxy-3-dimethylsulfamoylaminophenyl 2-pyridyl ketone. Hydrogenation over PcO2 according to the procedure of Example 3 gives α-(4-hydroxy-3-dimethylsulfamoylaminophenyl)-2-piperidylcarbinol.

reactant | dimethylsulfamyl chloride | 32.8 mmol, 4.7 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 3-amino-4-benzyloxyphenyl 2-pyridyl ketone | 16.4 mmol, 5.0 g | N1=C(C=CC=C1)C(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)N | C19H16N2O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-benzyloxy-3-dimethylsulfamoylaminophenyl 2-pyridyl ketone | N1=C(C=CC=C1)C(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(N(C)C)(=O)=O | C21H21N3O4S
